US04886805
16 ml of carbon disulfide are added dropwise at room temperature, with stirring, to a suspension of 40 g of 3-trifluoromethyl-2-hydrazinopyridine, prepared in Example 12, in 75 ml of pyridine. When the additioon is complete, stirring is continued for 15 minutes at room temperature and the reaction mixture is then heated under reflux for 5 hours. After cooling, the medium is concentrated in vacuo and water is then added. The solid residue obtained is filtered off, washed with water and dried to give 40 g of 3-mercapto-8-trifluoromethyl-1,2,4-triazolo(4,3-a)pyridine in the form of crystals melting at 236° C.

reactant | carbon disulfide | 16 ml | C(=S)=S | CS2
reactant | 3-trifluoromethyl-2-hydrazinopyridine | 40 g | FC(C=1C(=NC=CC1)NN)(F)F | C6H6F3N3
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | 3-mercapto-8-trifluoromethyl-1,2,4-triazolo(4,3-a)pyridine | 40 g | SC1=NN=C2N1C=CC=C2C(F)(F)F | C7H4F3N3S
